US07351719B2
Z6b) 4-(2-Diethylamino-ethoxy)-3-methoxy-phenylamine
0.77 g (2.87 mmol) of diethyl-[2-(2-methoxy-4-nitro-phenoxy)-ethyl]-amine was added to a suspension of 1.00 g (17.9 mmol) of iron powder in 7 mL EtOH and the mixture was stirred for 10 minutes at RT. 6.6 mL of conc. aqueous HCl was added dropwise within 15 minutes and the mixture was stirred for 1 hour. 100 ml of 2 M sodium carbonate solution was added and the mixture was exhaustively extracted with EtOAc. The combined org. extracts were dried over magnesium sulphate and evaporated down i. vac.

reactant | diethyl-[2-(2-methoxy-4-nitro-phenoxy)-ethyl]-amine | 2.87 mmol, 0.77 g | C(C)N(CCOC1=C(C=C(C=C1)[N+](=O)[O-])OC)CC | C13H20N2O4
reactant | HCl | 6.6 mL | Cl | ClH
reactant | sodium carbonate | 2 M, 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 7 mL | CCO | C2H6O
catalyst | iron | 17.9 mmol, 1.00 g | [Fe] | Fe
product | 4-(2-Diethylamino-ethoxy)-3-methoxy-phenylamine | C(C)N(CCOC1=C(C=C(C=C1)N)OC)CC | C13H22N2O2
